US08026257B2
Lithium aluminum hydride (1M in tetrahydrofuran, 1.71 ml, 1.71 mmol) was added to a solution of tert-butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)piperidine-1-carboxylate (93 mg, 0.19 mmol) in tetrahydrofuran (5 ml). The reaction was heated at reflux for 3 h. The reaction was quenched by sequential dropwise addition of water (0.2 mL), 1N sodium hydroxide (0.6 mL), and more water (0.2 mL). The mixture was filtered and the filtrate evaporated. The residue was chromatographed on silica gel with 15% methanol in dichloromethane. The product 7-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indole (52 mg, 0.129 mmol, 67.9% yield) was isolated as a clear oil. 1H-NMR (CDCl3, 400 MHz) δ 7.92 (bs, 1H), 7.78 (s, 1H), 7.32-7.48 (m, 5H), 7.08 (s, 1H), 6.85 (s, 1H), 6.45 (s, 1H), 4.72 (s, 2H), 3.52 (s, 2H), 2.73 (m, 2H), 2.31 (s, 3H), 2.22-2.40 (m, 4H), 2.12 (m, 2H); Mass spec. (MH)+: 403.11.

reactant | Lithium aluminum hydride | 1.71 mmol, 1M, 1.71 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)piperidine-1-carboxylate | 0.19 mmol, 93 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=CNC12)C(F)(F)F | C27H31F3N2O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indole | 0.129 mmol, 52 mg, 67.9% yield | CN1CCC(CC1)(C1=CC=CC=C1)COCC=1C=C(C=C2C=CNC12)C(F)(F)F | C23H25F3N2O
